US07511145B2
To a solution of 2-chloro-3-nitrobenzoic acid (0.85 g, 4.22 mmol) in anhydrous EtOH (50 mL) was bubbled with dry hydrogen chloride for 2 h at room temperature and the mixture was then stirred at room temperate overnight. After evaporation of solvent, water (100 mL) was added and the precipitates were collected by filtration and dried to give 2-chloro-3-nitro-benzoic acid ethyl ester.

reactant | 2-chloro-3-nitrobenzoic acid | 4.22 mmol, 0.85 g | ClC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C7H4ClNO4
reactant | hydrogen chloride | Cl | ClH
reactant | EtOH | 50 mL | CCO | C2H6O
product | 2-chloro-3-nitro-benzoic acid ethyl ester | C(C)OC(C1=C(C(=CC=C1)[N+](=O)[O-])Cl)=O | C9H8ClNO4
